US08003649B2
Benzyl 4-hydroxy-4-[5-(trifluoromethyl)pyridin-3-yl]piperidine-1-carboxylate (1.30 g, 3.42 mmol), 5% palladium on activated carbon (50 mg) and ammonium formate (2.0 g) in ethanol (20 mL) were stirred and heated under reflux for 1 hour then cooled to ambient temperature and filtered through diatomaceous earth. The filtrate was applied to an SCX column and eluted with methanol followed by 2M ammonia in methanol. Fractions containing product were combined and evaporated then purified by flash silica chromatography, elution gradient 10 to 20% 2M ammonia in methanol in DCM. Pure fractions were evaporated to dryness to afford 4-[5-(trifluoromethyl)pyridin-3-yl]piperidin-4-ol (0.417 g, 50%) as a pale yellow solid.

reactant | Benzyl 4-hydroxy-4-[5-(trifluoromethyl)pyridin-3-yl]piperidine-1-carboxylate | 3.42 mmol, 1.30 g | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C=1C=NC=C(C1)C(F)(F)F | C19H19F3N2O3
reactant | ammonium formate | 2.0 g | C(=O)[O-].[NH4+]
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-[5-(trifluoromethyl)pyridin-3-yl]piperidin-4-ol | 0.417 g, 50% | FC(C=1C=C(C=NC1)C1(CCNCC1)O)(F)F | C11H13F3N2O
